US07501430B2
13c: Preparation of 3-(dimethylamino)-1-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]prop-2-en-1-one
A 100 mL round bottom flask was charged with the 1-[6-(3-cyanophenyl)imidazo [2,1-b][1,3]thiazol-5-yl]ethanone (4.30 g, 16.1 mmol) and dimethylformamide dimethylacetal (40 mL). The mixture was refluxed for 6 hours and then concentrated in vacuo to provide a dark solid. LCMS: 323 [M+H]; purity: 90% by UV at 254 nm. This crude was used for next step reaction without further purification.

reactant | 1-[6-(3-cyanophenyl)imidazo [2,1-b][1,3]thiazol-5-yl]ethanone | 16.1 mmol, 4.30 g | C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C(C)=O | C14H9N3OS
solvent | dimethylformamide dimethylacetal | 40 mL | COC(N(C)C)OC | C5H13NO2
product | 3-(dimethylamino)-1-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]prop-2-en-1-one | CN(C=CC(=O)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)C#N)C | C17H14N4OS
